US06815456B2
Preparation of t-Butyl 3-(1H-Indazol-4-yloxy)pyrrolidin-1-Carboxylate
A solution of t-butyl 3-(3-amino-2-methylphenoxy)pyrrolidin-1-Carboxylate (4.6 g, 15.4 mmol), potassium acetate (1.81 g, 18.5 mmol) and acetic anhydride (5.02 g, 49.2 mmol) in benzene is treated dropwise with isoamylnitrite (4.13 ml, 30.8 mmol), heated at reflux temperature overnight, cooled to room temperature and filtered. The filtercake is washed with benzene. The combined filtrates are concentrated to give a yellow oil residue. The residue is purified by chromatography (SiO2, 25% EtOAc in hexanes). The resultant oil is dissolved in ethanol, treated with 40% aqueous NaOH, heated at reflux temperature for 45 min, cooled with an ice-water bath, neutralized to pH 9 with concentrated HCl and concentrated in vacuo. The resulting aqueous mixture is extracted with EtOAc. The combined extracts are washed with water and brine, dried over MgSO4 and concentrated in vacuo to give the title compound as a tan solid, 2.6 g, mp 196-198° C., identified by NMR and mass spectral analyses.

reactant | t-butyl 3-(3-amino-2-methylphenoxy)pyrrolidin-1-Carboxylate | 15.4 mmol, 4.6 g | NC=1C(=C(OC2CN(CC2)C(=O)OC(C)(C)C)C=CC1)C | C16H24N2O3
reactant | potassium acetate | 18.5 mmol, 1.81 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 49.2 mmol, 5.02 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | isoamylnitrite | 30.8 mmol, 4.13 ml | C(CC(C)C)ON=O | C5H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | t-Butyl 3-(1H-Indazol-4-yloxy)pyrrolidin-1-Carboxylate | N1N=CC2=C(C=CC=C12)OC1CN(CC1)C(=O)OC(C)(C)C | C16H21N3O3
